Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 Hemoptysis  
 
Major Surgical or Invasive Procedure:
___
1. Flexible bronchoscopy.
2. Cervical mediastinoscopy.
3. Left upper lobectomy.
4. Arterioplasty of left main pulmonary artery.
5. Mediastinal lymph node dissection.
6. Buttressing of bronchial staple line with thymus.

___
Bronchoscopy

 
History of Present Illness:
___ smoker with pmhx of HTN who presents from OSH with 
hemoptysis. Pt initially presented to ___ with 
small volume hempotysis, described as bright red blood about 5cc 
a few times an hour.  Pt had CT which 2cm spiculated mass at L 
hilar region encasing LUL bronchus, abutting L PA as well as 4mm 
nodule in RLL with sourrounding ground glass. Labs at OSH were 
significant for hct drop from 39 to 33.  The pulmonary team saw 
the patient and recommended transfer to ___ given potential 
need for advanced interventional pulmonologist. 
On arrival to ___, pt admitted to medicine floor on 2L NC. 
Very shortly after admission to the floor, pt had additional 
episode of small hemopytsis with SpO2 91% on non-rebreather. Pt 
transferred immediately to MICU where she intermittently 
desaturated to ___ on non-rebreather. ___ and IP made aware. 
Pt was intubated and bloody mucous plug was visualized in the 
left mainstem bronchus. Pt taken to OR by IP for rigid 
bronchscopy and possible intervention. 
 

 
Past Medical History:
tobacco use  
htn  
sciatica 
 
Social History:
___
Family History:
Mother had HTN, died of stroke in her ___.  Father died of a 
"lung problem" at 91 (was a heavy drinker and smoker). 

 
Physical Exam:
ON ADMISSION:
Vitals: 101/70, HR 85, 98% on non-rebreather-> 74% on 
non-rebreather 
Gen: AOx3, mentating well
Neck: Supple
Lungs: Diffuse rhonchi and coarse breath sounds bilaterally
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: Soft, non-guarding, non-distended unable to elicit 
tenderness, decreased bowel sounds, no hepatosplenomegaly
GU: Foley in place  
Ext: warm, 2+ pulses, no edema, no cyanosis

ON DISCHARGE:
Vitals: 98.8/98.0  69  115/69  18  95%RA
Gen.-AAOx3, in no acute distress
Neck-supple, no JVD, no carotis bruit
Heart-RRR, normal s1, s2, 
Chest-CTA B/L, wounds are healing well
Abdomen-soft, NT, ND
GU-voiding with no issues
extr.-no edema
 
Pertinent Results:
ADMISSION LABS:
___ 04:55PM BLOOD WBC-6.0 RBC-3.37* Hgb-10.7* Hct-34.0* 
MCV-101* MCH-31.6 MCHC-31.3 RDW-14.0 Plt ___
___ 04:55PM BLOOD ___ PTT-27.9 ___
___ 04:55PM BLOOD Glucose-97 UreaN-19 Creat-0.7 Na-143 
K-3.8 Cl-109* HCO3-24 AnGap-14
___ 04:55PM BLOOD Calcium-9.0 Phos-2.5* Mg-2.1
___ 11:17PM BLOOD Type-ART Temp-36.7 Rates-14/ Tidal V-400 
PEEP-5 FiO2-50 pO2-134* pCO2-43 pH-7.34* calTCO2-24 Base XS--2 
-ASSIST/CON Intubat-INTUBATED
.
MICRO:
___ 9:53 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 
___: URINE CX
___: BLOOD CX
.
IMAGING:
CXR ___:
FINDINGS:  Tip of endotracheal tube terminates approximately 5 
cm above the carina.  A poorly defined mass is present in the 
left suprahilar region,likely corresponding to history of left 
upper lobe mass.  Additionally, a poorly defined opacity is 
present in the left retrocardiac region, accompanied by a small 
left pleural effusion.  Correlative CT imaging may be helpful 
for more complete characterization of these findings if not 
already performed. Right lung is hyperexpanded but grossly 
clear.
.
PET CT ___:
1.  FDG-avid left hilar mass narrowing the left upper lobe 
bronchus, consistent with bronchogenic carcinoma. 2.  
FDG-avidity within the medial left upper lobe is likely due to 
post-obstructive inflammation. 3.  Mild FDG uptake in the 
subcarinal region may be reactive, but metastatic disease is not 
excluded. 4.  No evidence of FDG-avid distant metastasis.  
Multiple pulmonary nodules are better evaluated on recent 
CT-Chest. 
.
BRAIN MRI ___: 1.  No evidence of enhancing brain lesions. 
2.  Brain and medial temporal atrophy and small vessel disease. 
3.  No acute infarcts, mass effect or hydrocephalus. 
.
OTHER RESULTS:
LYMPH NODE, 11L, FINE NEEDLE ASPIRATION ___:
NEGATIVE FOR MALIGNANT CELLS.
- Polymorphous lymphocytes, consistent with lymph node sampling.
- Bronchial epithelial cells.
- Blood.
.
SPUTUM CYTOLOGY ___: Rare atypical cells in a background of 
macrophages and neutrophils.

___ 06:40AM BLOOD WBC-7.7 RBC-3.00* Hgb-9.0* Hct-29.5* 
MCV-98 MCH-29.9 MCHC-30.4* RDW-14.8 Plt ___
___ 03:01AM BLOOD WBC-9.9 RBC-3.02* Hgb-9.1* Hct-29.6* 
MCV-98 MCH-30.1 MCHC-30.8* RDW-14.8 Plt ___
___ 07:55AM BLOOD WBC-8.4 RBC-2.90* Hgb-8.8* Hct-28.6* 
MCV-99* MCH-30.5 MCHC-30.9* RDW-14.9 Plt ___
___ 03:00PM BLOOD WBC-12.9* RBC-2.91* Hgb-9.0* Hct-28.7* 
MCV-98 MCH-31.0 MCHC-31.5 RDW-15.2 Plt ___
___ 07:18AM BLOOD WBC-15.6* RBC-3.06* Hgb-9.5* Hct-29.6* 
MCV-97 MCH-31.2 MCHC-32.2 RDW-15.8* Plt ___
___ 02:00PM BLOOD WBC-15.4*# RBC-3.33* Hgb-10.1* Hct-32.3* 
MCV-97 MCH-30.4 MCHC-31.3 RDW-16.4* Plt ___
___ 06:00AM BLOOD WBC-6.3 RBC-2.85* Hgb-9.0* Hct-28.4* 
MCV-100* MCH-31.6 MCHC-31.7 RDW-14.1 Plt ___
___ 06:45AM BLOOD WBC-5.3 RBC-2.65* Hgb-8.6* Hct-26.1* 
MCV-99* MCH-32.6* MCHC-33.1 RDW-13.6 Plt ___
___ 07:05AM BLOOD WBC-6.0 RBC-2.68* Hgb-8.7* Hct-26.3* 
MCV-98 MCH-32.4* MCHC-33.0 RDW-13.4 Plt ___
___ 06:10AM BLOOD WBC-6.7 RBC-2.82* Hgb-9.2* Hct-27.7* 
MCV-98 MCH-32.7* MCHC-33.4 RDW-13.3 Plt ___
___ 06:15AM BLOOD WBC-7.0 RBC-2.68* Hgb-8.7* Hct-26.6* 
MCV-99* MCH-32.3* MCHC-32.6 RDW-13.3 Plt ___
___ 05:55PM BLOOD WBC-6.1 RBC-2.51* Hgb-8.3* Hct-25.1* 
MCV-100* MCH-33.0* MCHC-32.9 RDW-13.4 Plt ___
___ 02:26PM BLOOD WBC-6.8 RBC-2.54* Hgb-8.0* Hct-25.3* 
MCV-100* MCH-31.6 MCHC-31.8 RDW-13.4 Plt ___
___ 03:14AM BLOOD WBC-7.6 RBC-2.48* Hgb-8.2* Hct-24.8* 
MCV-100* MCH-32.9* MCHC-32.9 RDW-13.4 Plt ___
___ 06:40AM BLOOD Plt ___
___ 10:34AM BLOOD PTT-60.2*
___ 03:01AM BLOOD Plt ___
___ 03:01AM BLOOD ___ PTT-45.0* ___
___ 07:55AM BLOOD Plt ___
___ 03:00PM BLOOD Plt ___
___ 07:18AM BLOOD Plt ___
___ 02:00PM BLOOD Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:45AM BLOOD Plt ___
___ 07:45AM BLOOD ___ PTT-27.2 ___
___ 06:40AM BLOOD Glucose-107* UreaN-10 Creat-0.5 Na-136 
K-4.2 Cl-105 HCO3-24 AnGap-11
___ 08:42AM BLOOD Glucose-112* UreaN-10 Creat-0.6 Na-140 
K-4.1 Cl-107 HCO3-25 AnGap-12
___ 07:25PM BLOOD Na-141 K-4.2 Cl-107
___ 03:01AM BLOOD Glucose-128* UreaN-12 Creat-0.6 Na-138 
K-3.5 Cl-103 HCO3-27 AnGap-12
___ 07:55AM BLOOD Glucose-95 UreaN-13 Creat-0.6 Na-136 
K-3.8 Cl-103 HCO3-25 AnGap-12
___ 03:00PM BLOOD Glucose-124* UreaN-16 Creat-0.6 Na-133 
K-3.9 Cl-103 HCO3-25 AnGap-9
___ 07:18AM BLOOD Glucose-102* UreaN-19 Creat-0.8 Na-137 
K-4.7 Cl-103 HCO3-26 AnGap-13
___ 02:00PM BLOOD Glucose-157* UreaN-13 Creat-0.7 Na-139 
K-4.2 Cl-106 HCO3-24 AnGap-13
___ 02:00PM BLOOD Glucose-157* UreaN-13 Creat-0.7 Na-139 
K-4.2 Cl-106 HCO3-24 AnGap-13
___ 07:10AM BLOOD Glucose-99 UreaN-16 Creat-0.7 Na-140 
K-4.4 Cl-108 HCO3-24 AnGap-12
___ 07:45AM BLOOD Glucose-102* UreaN-13 Creat-0.8 Na-141 
K-4.1 Cl-107 HCO3-24 AnGap-14
___ 06:00AM BLOOD Glucose-100 UreaN-14 Creat-0.6 Na-141 
K-4.3 Cl-106 HCO3-25 AnGap-14
___ 06:45AM BLOOD Glucose-107* UreaN-14 Creat-0.6 Na-142 
K-4.0 Cl-106 HCO3-25 AnGap-15
___ 07:05AM BLOOD Glucose-114* UreaN-13 Creat-0.6 Na-141 
K-4.0 Cl-106 HCO3-26 AnGap-13
___ 06:10AM BLOOD Glucose-115* UreaN-13 Creat-0.6 Na-141 
K-3.8 Cl-108 HCO3-25 AnGap-12
___ 06:15AM BLOOD Glucose-116* UreaN-14 Creat-0.6 Na-142 
K-3.9 Cl-109* HCO3-28 AnGap-9
___ 03:14AM BLOOD Glucose-102* UreaN-9 Creat-0.5 Na-139 
K-3.6 Cl-107 HCO3-22 AnGap-14
___ 02:30PM BLOOD Glucose-86 UreaN-10 Creat-0.6 Na-140 
K-4.2 Cl-109* HCO3-24 AnGap-11
___ 06:40AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.1
___ 08:42AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.9
___ 07:25PM BLOOD Phos-1.8* Mg-2.1
___ 03:01AM BLOOD Calcium-8.3* Phos-3.0 Mg-2.1
___ 07:55AM BLOOD Calcium-8.2* Phos-2.6* Mg-1.9
___ 07:18AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9
___ 02:00PM BLOOD Calcium-8.3* Phos-4.1 Mg-1.9
___ 07:10AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.1
___ 06:10AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.0
___ 06:15AM BLOOD Calcium-8.8 Phos-2.2* Mg-2.1
___ 07:10AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.1
___ 06:10AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.0
___ 06:15AM BLOOD Calcium-8.8 Phos-2.2* Mg-2.1
___ 03:14AM BLOOD Calcium-8.3* Phos-2.1* Mg-2.0
___ 02:30PM BLOOD Calcium-8.1* Phos-2.4* Mg-2.2
___ 07:45AM BLOOD VitB12-793
___ 07:45AM BLOOD TSH-2.0
___ 01:00AM BLOOD HoldBLu-HOLD
___ 11:35AM BLOOD Type-ART pO2-181* pCO2-38 pH-7.41 
calTCO2-25 Base XS-0 Intubat-INTUBATED
___ 11:17PM BLOOD Type-ART Temp-36.7 Rates-14/ Tidal V-400 
PEEP-5 FiO2-50 pO2-134* pCO2-43 pH-7.34* calTCO2-24 Base XS--2 
-ASSIST/CON Intubat-INTUBATED
___ 11:35AM BLOOD Hgb-7.3* calcHCT-22 O2 Sat-99
___ 11:17PM BLOOD Hgb-9.6* calcHCT-29
___ 11:35AM BLOOD freeCa-1.09*

___ ECHO
The left atrial volume is normal. No left atrial mass/thrombus 
seen (best excluded by transesophageal echocardiography). The 
estimated right atrial pressure is at least 15 mmHg. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. Moderate [2+] tricuspid regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Moderate 
tricuspid regurgitation. Mild pulmonary artery hypertension. 
Increased PCWP.

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  

Chest Xray ___
CHEST RADIOGRAPH 
  
INDICATION:  Status post left upper lobectomy, chest tube 
removal, evaluation. 
  
COMPARISON:  ___. 
  
FINDINGS:  As compared to the previous radiograph, the air-fluid 
level 
previously seen is resolved.  Apart of an approximately 8-mm 
left apical 
pneumothorax, the remaining left lung is well expanded.  There 
is a minimal 
effusion blunting the left costophrenic sinus. 
  
Normal appearance of the right lung.  Borderline size of the 
cardiac 
silhouette without pulmonary edema. 

 
Brief Hospital Course:
___ smoker with pmh of HTN who presents from OSH with 
hemoptysis, recently found to have 2cm spiculated mass at L 
hilar region encasing LUL bronchus, abutting L PA with course 
c/b hemoptysis requiring MICU transfer and intubation.
.
# Pulmonary hemorrhage: Pt immediately transferred from floor to 
ICU after desaturating to 91% on non-rebreather in setting of 
continued small volume hemoptysis. Pt intubated for airway 
protection and a bloody mucous plug was visualized in the left 
mainstem bronchus. She was taken to OR by IP for rigid 
bronchoscopy on ___ where she underwent left main stem 
cautery and cryotherapy.  She went to ___ ___ for bronchial 
artery embolization. A small common trunk supplying right and 
left hilum was identified but could not be cannulated with a 
catheter and guidewire. After several attempts, the vessel could 
no longer be identified, possibly due to spasm or dissection, 
and the procedure was aborted. She was extubated without 
difficulty on ___ and transferred to the floor on ___. 
 On the floor, her Hct remained stable and she had no episodes 
of hemoptysis. She received codeine for cough suppression.
.
# Left Hilar Mass, RLL nodule: Likely malignant given smoking 
history. Pt had EBUS and TBNA of lymph node (did not biopsy mass 
due to concern for bleeding). TBNA of lymph node was negative 
for malignant cells. Sputum cytology showed atypical cells, but 
was nondiagnostic.  She was evaluated by both radiation oncology 
and thoracic surgery. PET scan and brain MRI showed no evidence 
of extra-pulmonary metastases. PFTs were performed ___ and 
she was determined to be a surgical candidate.  The pt and her 
family chose to pursue surgical intervention over radiation 
therapy.
. 
#HTN: Held home nifedipine in setting of acute bleed and BPs 
___.

On ___ Thoracic Surgery was consulted for surgical 
intervention and the patient was transferred to thoracic surgery 
service. After in detail discussion with the patient and her 
family she opt in for surgical intervention. Informed consent 
was obtained after discussing risks and benefits of the 
procedure. The patient was pre-op'ed and taken to the operating 
room on ___. She underwent 
1. Flexible bronchoscopy.
2. Cervical mediastinoscopy.
3. Left upper lobectomy.
4. Arterioplasty of left main pulmonary artery.
5. Mediastinal lymph node dissection.
6. Buttressing of bronchial staple line with thymus.
The procedure went well without complication. She was extubated 
and transferred to the PACU. She did well in PACU and 
transferred to surgical floor. Her pain was controlled with 
epidural. On ___ her chest tube put out 350cc of fluids. He 
SBP was in 80-90s, pt was asymptomatic, her home dose Nifadipine 
was held for low blood pressure. her diet was advanced to 
regular on ___, which she tolerated well. She was 
triggered for new onset atrial fibrillation. Metoprolol 5 IV was 
given, which she responded well. She also received 500cc of NS 
bolus for low urine output with good response. On ___ she 
received Metoprolol 5 IV for another episode of afib with hear 
rate of 150s, she responded well. She desaturated requiring 6L 
NC, she was then transferred to the TSICU for bedside 
bronchoscopy. It was performed by interventional pulmonologist, 
big mucus plug was removed. Her breathing status improved after 
the procedure but she still remained on ___ L of oxygen through 
nasal cannula. She remained in the ICU, received albuterol 
nebulizers every 4 hours with good response. Cardiology was also 
consulted for new onset afib. They recommended anticoagulation 
and rate control. Metoprolol 12.5 BID and Xarelto 20 daily was 
started. On ___, pt was doing well, she was only on 2L NC 
Sats >92. Her foley was removed, she later voided without any 
issues, her chest tube was also removed. The patient was 
transferred to floor on the same day. On ___ her 
Metoprolol dose was increased to TID for better rate control. On 
___ she was again triggered for afib, received digoxin 
load, which she responded well. Digoxin 125 daily was added to 
her daily standing medications for better rate control.

Physical therapy also evaluated the patient and recommended to 
be discharged to rehabilitation clinic for further physical 
therapy.
 
On ___ pt was doing well, her vital signs were stable, 
heart rate in good control, her pain well managed. After an 
uneventful night she was discharged to rehab with follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin Dose is Unknown  PO MWF 
2. Multivitamins 1 TAB PO DAILY 
3. Calcium Carbonate 500 mg PO DAILY 
4. NIFEdipine CR 60 mg PO DAILY 
5. Vitamin D 400 UNIT PO DAILY 
6. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-6-150 
mg-unit-mg-mg oral daily 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally once a day Disp 
#*30 Suppository Refills:*0
3. Digoxin 0.125 mg PO DAILY 
RX *digoxin 125 mcg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
5. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
6. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
RX *oxycodone [Oxecta] 5 mg ___ tablet, oral only(s) by mouth 
every four (4) hours Disp #*40 Tablet Refills:*0
7. Rivaroxaban 20 mg PO DAILY 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth once a day 
Disp #*60 Tablet Refills:*0
8. Aspirin 81 mg PO DAILY 
9. Calcium Carbonate 500 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-6-150 
mg-unit-mg-mg oral daily 
12. Vitamin D 400 UNIT PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Non-small cell lung
Left lower lobe collapse
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you are 
recovering well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.
 
 
 

 
Followup Instructions:
___